US05102667
2-Diethylaminonphenylacetic acid is prepared by hydrogenation of a suspension of 2-nitrophenylacetic acid (9 g) in ethanol (40 cc) under a pressure of 7 bar for 4 hours at 25° C. in the presence of acetaldehyde (7 cc) and 10% palladium-on-carbon black (1 g). The reaction mixture is filtered, the filtrate is concentrated to dryness under reduced pressssure (2.7 kPa) and the residue is chromatographed on a silica column (0.2-0.063 mm, diameter 5 cm, height 50 cm), eluting under a nitrogen pressure of 0.7 bar with a mixture of cyclohexane and ethyl acetate (70/30 by volume) and collecting 125 cc fractions. Fractions 38 to 48 are concentrated to dryness under reduced pressure (2.7 kPa) to give 2-diethylaminophenylacetic acid (1.1 g) in the form of a yellow oil.

reactant | 2-nitrophenylacetic acid | 9 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | acetaldehyde | 7 cc | C(C)=O | C2H4O
reactant | ethanol | 40 cc | C(C)O | C2H6O
catalyst | palladium-on-carbon | 1 g | [Pd] | Pd
product | 2-diethylaminophenylacetic acid | 1.1 g | C(C)N(C1=C(C=CC=C1)CC(=O)O)CC | C12H17NO2
